US07521480B2
2-Amino-4-chloro-N-hydroxy-benzamide
2-Amino-4-chloro-benzonitrile (5.3 g, 35 mmol) was dissolved in ethanol (180 ml) aided by heating. An aqueous solution of hydroxylamine hydrochloride (4.9 g, 70 mmol) and sodium bicarbonate (11.1 g, 105 mmol) was added and the mixture was refluxed for 8 hours. The solvent was then reduced and the product suspended in water (100 ml) and filtered off to yield 5.6 g (86%) of a white powder (m.p. 131-133° C.).

reactant | 2-Amino-4-chloro-benzonitrile | 35 mmol, 5.3 g | NC1=C(C#N)C=CC(=C1)Cl | C7H5ClN2
reactant | hydroxylamine hydrochloride | 70 mmol, 4.9 g | Cl.NO
reactant | sodium bicarbonate | 105 mmol, 11.1 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 180 ml | C(C)O | C2H6O
solvent | water | 100 ml | O | H2O
product | 2-Amino-4-chloro-N-hydroxy-benzamide | 5.6 g, 86% | NC1=C(C(=O)NO)C=CC(=C1)Cl | C7H7ClN2O2
